US07166597B2
e) N-Cyclopropyl-4-[6-cyano-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine
To a solution of 2-(4-fluorophenyl)-3-(3-(dimethylamino)-2-propenoyl)-6-cyanopyrazolo[1,5-a]pyridine (1.3 g, 3.9 mmol) in dimethylformamide (20 mL), under N2, was added N-cyclopropylguanidine (0.78 g, 7.8 mmol) and potassium carbonate (1.1 g, 7.8 mmol). The mixture was stirred and heated at 100° C. for 17 h and then additional N-cyclopropyl-guanidine (0.39 g, 3.9 mmol) and potassium carbonate (0.55 g, 3.9 mmol) were added. The mixture was heated at 100° C. for an additional 4 h and then the reaction mixture was cooled and water added. The resulting solid was collected by filtration. This solid was dissolved in diethyl ether and purified using chromatography to give the title compound as a yellow solid, 0.39 g (28%). 1H NMR (d6-DMSO) δ 0.50 (m, 2H), 0.69 (d, 2H, J=4.0 Hz), 2.69 (m, 1H), 6.29 (d, 1H, J=8.0 Hz), 7.34 (t, 2H, J=8.0 Hz), 7.47 (d, 1H, J=4.0 Hz), 7.69 (m, 3H), 8.11 (d, 1H, J=4.0 Hz), 8.56 (br 5,1H) MS (ES+) m/z 370 (M++H).

reactant | 2-(4-fluorophenyl)-3-(3-(dimethylamino)-2-propenoyl)-6-cyanopyrazolo[1,5-a]pyridine | 3.9 mmol, 1.3 g | FC1=CC=C(C=C1)C1=NN2C(C=CC(=C2)C#N)=C1C(C=CN(C)C)=O | C19H15FN4O
reactant | N-cyclopropylguanidine | 7.8 mmol, 0.78 g | C1(CC1)NC(=N)N | C4H9N3
reactant | potassium carbonate | 7.8 mmol, 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-cyclopropyl-guanidine | 3.9 mmol, 0.39 g | C1(CC1)NC(=N)N | C4H9N3
reactant | potassium carbonate | 3.9 mmol, 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N-Cyclopropyl-4-[6-cyano-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine | C1(CC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC(=C2)C#N)C2=CC=C(C=C2)F | C21H15FN6
